US08258141B2
Step 2: 1-[9-((1R,2S,3R,4S)-2,3-Dihydroxy-4-propionylamino-cyclopentyl)-6-(2,2-diphenyl-ethylamino)-9H-purin-2-yl]-1H-pyrazole-4-carboxylic acid methylamide
A mixture of 1-[9-((1R,2S,3R,4S)-2,3-dihydroxy-4-propionylamino-cyclopentyl)-6-(2,2-diphenyl-ethylamino)-9H-purin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester (0.07 g, 0.112 mmol) and 40% aqueous methyl amine solution (3 ml) is heated to 65° C. for 12 h. The reaction mixture is concentrated in vacuo and purification of the crude residue by chromatography on silica eluting with 4% methanol in chloroform yields the title compound.

reactant | 1-[9-((1R,2S,3R,4S)-2,3-dihydroxy-4-propionylamino-cyclopentyl)-6-(2,2-diphenyl-ethylamino)-9H-purin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 0.112 mmol, 0.07 g | C(C)OC(=O)C=1C=NN(C1)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CC)=O)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C33H36N8O5
reactant | methyl amine | 3 ml | CN | CH5N
product | 1-[9-((1R,2S,3R,4S)-2,3-Dihydroxy-4-propionylamino-cyclopentyl)-6-(2,2-diphenyl-ethylamino)-9H-purin-2-yl]-1H-pyrazole-4-carboxylic acid methylamide | CNC(=O)C=1C=NN(C1)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CC)=O)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C32H35N9O4
